US09062070B2
Step C: 5-bromo-4-cyclopropyl-2-benzofuran-1(3H)-one
To a cooled (0° C.) mixture of 5-bromo-4-vinyl-2-benzofuran-1(3H)-one (2.2 g, 9.21 mol) and Pd(OAc)2 (100 mg) in EtOAc (50 mL) was added a solution of CH2N2 in ether (100 mL) slowly. The resulting mixture was stirred at room temperature overnight, then quenched with acetic acid, filtered and the filtrate washed with water and brine, dried and concentrated to provide the title compound.

reactant | 5-bromo-4-vinyl-2-benzofuran-1(3H)-one | 9.21 mol, 2.2 g | BrC1=C(C2=C(C(OC2)=O)C=C1)C=C | C10H7BrO2
reactant | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
solvent | ether | 100 mL | CCOCC | C4H10O
catalyst | Pd(OAc)2 | 100 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-bromo-4-cyclopropyl-2-benzofuran-1(3H)-one | BrC1=C(C2=C(C(OC2)=O)C=C1)C1CC1 | C11H9BrO2
